US07642270B2
Dimethylamino-acetyl chloride (0.14 g, 0.86 mmol) and (3-piperidin-4-yl-phenyl)-carbamic acid tert-butyl ester (0.20 g, 0.72 mmol) were combined in CH2Cl2 (5 mL) and triethylamine (0.21 g, 2.2 mmol) was added. After 6 h, water (5 mL) was added. The reaction mixture was extracted with CH2Cl2 (3×5 mL) and the combined organic extracts were dried (MgSO4) and concentrated. The compound was found to be unstable on silica and therefore carried on without further purification. (3-Piperidin-4-yl-phenyl)-carbamic acid tert-butyl ester (0.72 mmol) was diluted in CH2Cl2 (3 mL) and TFA (3 mL) was added. After 1 h, the reaction mixture was concentrated. Water (2 mL) was added and the solution was frozen and lyophilized overnight to provide (0.090 g) (48%) of 1-[4-(3-amino-phenyl)-piperidin-1-yl]-2-dimethylamino-ethanone.

reactant | Dimethylamino-acetyl chloride | 0.86 mmol, 0.14 g | CN(C)CC(=O)Cl | C4H8ClNO
reactant | (3-piperidin-4-yl-phenyl)-carbamic acid tert-butyl ester | 0.72 mmol, 0.20 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)C1CCNCC1)=O | C16H24N2O2
reactant | triethylamine | 2.2 mmol, 0.21 g | C(C)N(CC)CC | C6H15N
reactant | (3-Piperidin-4-yl-phenyl)-carbamic acid tert-butyl ester | 0.72 mmol | C(C)(C)(C)OC(NC1=CC(=CC=C1)C1CCNCC1)=O | C16H24N2O2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 1-[4-(3-amino-phenyl)-piperidin-1-yl]-2-dimethylamino-ethanone | 0.090 g, 48% | NC=1C=C(C=CC1)C1CCN(CC1)C(CN(C)C)=O | C15H23N3O
